### PR TITLE
feat: the CFC commutes with set integrals

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows various versions of `cfc (fun r => ∫ x in s, f x r ∂μ) a = ∫ x in s, cfc (f x) a ∂μ`. We previously had it for integrals over the whole space (i.e. without `s`), but the set version turns out to be very convenient. Lemmas showing the integrability of `fun x => cfc (f x) a` and friends are also added.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 1]
```diff
@@ -37,111 +37,423 @@ section unital
...
+lemma cfcHom_integral [NormedAlgebra ℝ A] (a : A) (f : X → C(spectrum 𝕜 a, 𝕜))
+    (hf₁ : Integrable f μ) (ha : p a := by cfc_tac) :
     ∫ x, cfcHom (a := a) ha (f x) ∂μ = cfcHom (a := a) ha (∫ x, f x ∂μ) :=
   cfcL_integral a f hf₁ ha
 
+open ContinuousMap Classical in
+lemma integrable_cfc_set {s : Set X} (hs : MeasurableSet s) (f : X → 𝕜 → 𝕜)
+    (bound : X → ℝ) (a : A) (hf₁ : ∀ x ∈ s, ContinuousOn (f x) (spectrum 𝕜 a))
+    (hf₂ : AEStronglyMeasurable (fun x : X =>
+      if h : x ∈ s then (⟨_, (hf₁ x h).restrict⟩ : C(spectrum 𝕜 a, 𝕜)) else 0) (μ.restrict s))
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:57]: This assumption seems annoying to verify in practice. Do you see any way to simplify it?

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 2]
```diff
@@ -37,111 +37,423 @@ section unital
...
-lemma cfcHom_integral (a : A) (f : X → C(spectrum 𝕜 a, 𝕜)) (hf₁ : Integrable f μ)
-    (ha : p a := by cfc_tac) :
+lemma cfcHom_integral [NormedAlgebra ℝ A] (a : A) (f : X → C(spectrum 𝕜 a, 𝕜))
+    (hf₁ : Integrable f μ) (ha : p a := by cfc_tac) :
     ∫ x, cfcHom (a := a) ha (f x) ∂μ = cfcHom (a := a) ha (∫ x, f x ∂μ) :=
   cfcL_integral a f hf₁ ha
 
+open ContinuousMap Classical in
+lemma integrable_cfc_set {s : Set X} (hs : MeasurableSet s) (f : X → 𝕜 → 𝕜)
+    (bound : X → ℝ) (a : A) (hf₁ : ∀ x ∈ s, ContinuousOn (f x) (spectrum 𝕜 a))
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:55]: Do you want `hf₁` to be an autoparam? I would think so, but maybe you have reasons to avoid it.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 3]
```diff
@@ -37,111 +37,423 @@ section unital
...
 
-lemma cfcHom_integral (a : A) (f : X → C(spectrum 𝕜 a, 𝕜)) (hf₁ : Integrable f μ)
-    (ha : p a := by cfc_tac) :
+lemma cfcHom_integral [NormedAlgebra ℝ A] (a : A) (f : X → C(spectrum 𝕜 a, 𝕜))
+    (hf₁ : Integrable f μ) (ha : p a := by cfc_tac) :
     ∫ x, cfcHom (a := a) ha (f x) ∂μ = cfcHom (a := a) ha (∫ x, f x ∂μ) :=
   cfcL_integral a f hf₁ ha
 
+open ContinuousMap Classical in
+lemma integrable_cfc_set {s : Set X} (hs : MeasurableSet s) (f : X → 𝕜 → 𝕜)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:54]:
```suggestion
lemma integrableOn_cfc {s : Set X} (hs : MeasurableSet s) (f : X → 𝕜 → 𝕜)
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 4]
```diff
@@ -37,111 +37,423 @@ section unital
...
+    intro x hx
+    dsimp
+    rw [cfc_apply ..]
+    unfold fc
+    simp [hx]
+  refine .congr_fun ?_ h₁.symm hs
+  exact ContinuousLinearMap.integrable_comp _ fc_integrable
+
+open ContinuousMap Classical in
+lemma integrable_cfc_set' [TopologicalSpace X] [OpensMeasurableSpace X] {s : Set X}
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:88]: I think this should be the unprimed version
```suggestion
lemma integrableOn_cfc [TopologicalSpace X] [OpensMeasurableSpace X] {s : Set X}
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 5]
```diff
@@ -37,111 +37,423 @@ section unital
...
+    exact (fc₂ ⟨x, xs⟩).continuous
+  · refine ContinuousOn.aestronglyMeasurable ?_ hs
+    rw [continuousOn_iff_continuous_restrict]
+    refine fc₂.continuous.congr ?_
+    intro ⟨x, hx⟩
+    ext
+    simp [fc₂, fc, hx]
+
+open ContinuousMap Set in
+lemma integrable_cfc (f : X → 𝕜 → 𝕜) (bound : X → ℝ) (a : A)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:109]:
```suggestion
lemma integrable_cfc' (f : X → 𝕜 → 𝕜) (bound : X → ℝ) (a : A)
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 6]
```diff
@@ -37,111 +37,423 @@ section unital
...
+  refine integrable_cfc_set MeasurableSet.univ f bound a ?_ ?_ ?_ ?_ ha
+  · exact fun x _ => hf₁ x
+  · simp [hf₂]
+  · exact fun x _ => hbound x
+  · simp [hbound_finite_integral]
+
 open ContinuousMap in
-/-- The continuous functional calculus commutes with integration. -/
-lemma cfc_integral [TopologicalSpace X] [OpensMeasurableSpace X] (f : X → 𝕜 → 𝕜)
+lemma integrable_cfc' [TopologicalSpace X] [OpensMeasurableSpace X] (f : X → 𝕜 → 𝕜)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:123]: same here
```suggestion
lemma integrable_cfc [TopologicalSpace X] [OpensMeasurableSpace X] (f : X → 𝕜 → 𝕜)
```

**Review by j-loreaux — COMMENTED** [review]
I think the non-primed versions should be the ones with the continuity assumptions and the primed versions should take `AEStronglyMeasurable` hypotheses, as I imagine continuity is the more common use case. It would be nice if we can simplify some of those `AEStronglyMeasurable` conditions.

As for the duplication of proofs, I'll see what I can do to simplify later.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:57]: Not really. I expect the versions with the continuity assumptions to be much more useful (and I agree they should be unprimed).

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:55]: On second thought, no: `hf₂` refers to `hf₁`, so we can't put it at the end of the list of parameters.

**Review by j-loreaux — COMMENTED** [review]
Unfortunately, the more I look at this, the more I see things that bother me, but they don't seem to be easily fixed, and I'm having trouble seeing what we need to do to make it more palatable.

I provided a few easy improvements in the proofs (in the other comments below), which can be repeated throughout, however, that's primarily cosmetic.

Here are the other issues I see:

1. the assumption is `≤ ‖bound x‖` instead of `≤ bound x`, which would be better for unification. This shouldn't be too hard to fix, but it occurs repeatedly.
2. in the (now unprimed) versions which assume continuity of the uncurried function on a set, this assumes continuity of `↥s × ↥(spectrum 𝕜 a)`, which is unpleasant being a product of coercions to `Sort`. A more natural assumption in my mind would be `ContinuousOn (s ×ˢ spectrum 𝕜 a) f.uncurry`. This is likely also straightforward to change in the relevant places. This would perhaps also suggest `ContinuousOn (Set.univ × spectrum 𝕜 a) f.uncurry`. So arguably my suggestion here is wrong because *this* version is unnatural, and we should make them coherent. I'm not sure what the right answer is. (Oh, also, note that since the spectrum is compact, it's feasible to use only uncurried versions everywhere if preferred.)
3. There's a ton of code duplication throughout which makes me think there are missing lemmas, but it's hard to pinpoint exactly what they should be. Maybe there should just be a few `private` lemmas for this file?
4. In the proof of, e.g., `cfc_setIntegral'`, I really wanted to simply do: `convert (cfcL_integral a fc fc_integrable ha).symm using 1`, but this led me to a goal: `ContinuousOn (fun r ↦ ∫ (x : X) in s, f x r ∂μ) (spectrum 𝕜 a)`. The natural thing to use is [MeasureTheory.continuousOn_of_dominated](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Bochner/Basic.html#MeasureTheory.continuousOn_of_dominated), but that would require assuming `IntegrableOn bound s μ`, which weakens the statement. I've outlined this approach below. The  `sorry` should be provable from `hf₂` and using `Continuous.comp_aestronglyMeasurable` along with the fact that evaluation is continuous, but maybe I'm missing something, as I didn't do it.

```lean
open ContinuousMap Classical in
/-- The continuous functional calculus commutes with integration. -/
lemma cfc_setIntegral' [NormedAlgebra ℝ A] {s : Set X} (hs : MeasurableSet s) (f : X → 𝕜 → 𝕜)
    (bound : X → ℝ) (a : A) (hf₁ : ∀ x ∈ s, ContinuousOn (f x) (spectrum 𝕜 a))
    (hf₂ : AEStronglyMeasurable (fun x : X =>
      if h : x ∈ s then (⟨_, (hf₁ x h).restrict⟩ : C(spectrum 𝕜 a, 𝕜)) else 0) (μ.restrict s))
    (hbound : ∀ x ∈ s, ∀ z ∈ spectrum 𝕜 a, ‖f x z‖ ≤ bound x)
    (hbound_integrable : IntegrableOn bound s μ) (ha : p a := by cfc_tac) :
    cfc (fun r => ∫ x in s, f x r ∂μ) a = ∫ x in s, cfc (f x) a ∂μ := by
  let fc : X → C(spectrum 𝕜 a, 𝕜) := fun x =>
    if h : x ∈ s then ⟨_, (hf₁ x h).restrict⟩ else 0
  have fc_integrable : IntegrableOn fc s μ := by -- we shouldn't have to reprove this, bleh
    refine ⟨hf₂, ?_⟩
    refine hbound_integrable.2.mono ?_
    filter_upwards [ae_restrict_mem hs] with x hx
    rw [norm_le _ (norm_nonneg (bound x))]
    intro z
    simpa [fc, dif_pos hx] using (hbound x hx z.1 z.2).trans <| le_abs_self _
  convert cfcL_integral a fc fc_integrable ha |>.symm using 1
  · rw [cfcL_apply, cfc_apply _ _ (hf := ?hf)]
    · congr!
      ext r
      simp only [Set.restrict_apply, toFun_eq_coe, fc, ContinuousMap.integral_apply fc_integrable _]
      refine integral_congr_ae ?_
      filter_upwards [ae_restrict_mem hs] with x hx
      simp [fc, hx]
    · refine continuousOn_of_dominated (bound := (bound ·)) ?_ ?_ hbound_integrable ?_
      · sorry
      · intro z hz
        filter_upwards [ae_restrict_mem hs] with x hx
        exact hbound x hx z hz
      · filter_upwards [ae_restrict_mem hs] with x hx
        exact hf₁ x hx
  · refine setIntegral_congr_fun hs fun x hx ↦ ?_
    simp [cfc_apply (f x) a, fc, hx]
```

**Comment by ADedecker** [comment]
Sorry for the wait.

I got a bit carried away, and the result is on branch `AD_cfc_integral`, where I essentially refactored the whole file in a way that looks more satisfactory to me.

The key point is that most of the struggles are really not related to cfc but to `ContinuousMap[Zero]`-valued integration, so I wrote down what I think is sensible general API for it.
- The first part is `ContinuousMap.mkD`, which is a constructor for `ContinuousMap` which returns a default value if the given function is not continuous (the name is analogous to e.g [List.getD](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/BasicAux.html#List.getD)). I claim that this is a sensible thing to have for `ContinuousMap`-valued integration, because it allows continuity to hold only for almost all values of the parameter.

Then, the rest of the work is providing API for proving integrability of a family of continuous maps, and specializations of these lemmas to the case of `mkD`-built families. Since integrability is (ae-strong-)measurability + finite integral of norm, I split these like so:
- first, there's a general (and elementary) criterion for `HasFiniteIntegral` for `ContinuousMap`-valued families, in terms of existence of a bound. Again, we care about integrability *as a `ContinuousMap`-valued function*, so the setup is a bit different from parametric integration where we get back continuity at the end. I then also specialize it to `mkD`.
- then, there are the `AEStronglyMeasurable` statements assuming uncurried-continuity (as in your current unprimed lemmas). They all follow from continuity statements (*), which are a few simple lines each. I'm not sure if there's a sensible statement with weaker hypotheses, probably there is using compactness somehow, but I don't have any ideas how to do that.

(*) There is a small divergence between unital and non-unital here, as you'll see in the file.

Finally, the application to CFC is as follows:
- first, a lemma for rewriting `cfc f a` to `cfcL (a := a) ha (mkD ((spectrum 𝕜 a).restrict f) 0)`. I think this is useful more generally as a lemma allowing to rewrite `cfc` to `cfcL` without hypotheses on the function (but with hypotheses on the algebra element)
- then specialization of the general statement regarding continuous linear maps and Bochner integration to `cfcL`
- then, some integrability statements, one assuming integrability of some `mkD` family, one assuming a bound and *measurability* of the `mkD` family (this is basically your primed lemma), and then your unprimed lemma, with a bound and uncurried-continuity
- finally, the "commuting with integration" statements, with the same three variants

A few comments:
- I'm ready to hear that a lot of this is overkill, but I think most lemmas can be justified. I don't have a lot of applications in mind for `ContinuousMap`-valued integration, but surely there's more than this one
- I agree with Jireh that it looks a bit weird to put a norm around the bound, so instead I assume that it is nonnegative
- I also agree with Jireh that continuity of the uncurried function on a product subset is easier to deal with than continuity on a product of subtypes, so I changed that
- there's still a bit of code duplication going on:
	- between the unital and non-unital case, but I don't see how to avoid this
	- there is no convenient way to deal with uncurried continuity on a set ==> continuity when one variable is fixed
	- I tried to minimize some "nonnegativity of the bound" hypotheses, by using the fact that the spectrum is (almost always) nonempty. This makes some proof annoyingly longer, and may not be worth the troubles.
- I'm not sure how useful the primed version are, maybe we should replace them with the `₀` versions.

How does it look ?

**Comment by ADedecker** [comment]
Link to the file: https://github.com/leanprover-community/mathlib4/blob/AD_cfc_integral/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean

**Comment by dupuisf** [comment]
Nice, thanks! I agree this is cleaner and `mkD` makes it all a lot easier. It's a bit disappointing that it didn't shorten the code that much but oh well. I'd be happy to just go with that version. @j-loreaux what do you think?

**Comment by j-loreaux** [comment]
Overall, I like it a lot. I realize it's longer, but it's much cleaner and it's providing some convenient API, so the fact that it's longer can be accounted for.

@ADedecker do you want to turn it into an actual PR so we can make comments? Or is it better if we replace the code in this one for the sake of continuity (pun intended!)?

**Comment by dupuisf** [comment]
@ADedecker Feel free to open a PR for your branch, it's probably the easiest way to proceed. Then I'll just close this one.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
